*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL1005-18N
* Inductance = 18nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-3GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt PFL1005-18N_freq port1 port2 PARAMS: Cpar=85pF Ind=0.019uH
X1 port1 port2 Model1A PARAMS:
+ R1=100
+ R2=0.032
+ C= {Cpar}
+ K1=0.00004
+ K2=0.009
+ K3= {Ind}
+ K4=0.0006
+ K5=0.000003
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=13.1196876
.ends PFL1005-18N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL1005-18N
* Inductance = 18nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-3GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt PFL1005-18N_imp port1 port2 PARAMS: Cpar=69.086pF Ind=0.019uH
X1 port1 port2 Model1D PARAMS:
+ R1=100
+ R2=0.032
+ C= {Cpar}
+ K1=0.00004
+ K2=0.009
+ K3= {Ind}
+ K4=0.0006
+ K5=0.000003
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=13.1196876
.ends PFL1005-18N_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL1005-36N
* Inductance = 36nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-3GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt PFL1005-36N_freq port1 port2 PARAMS: Cpar=0.1pF Ind=0.036uH
X1 port1 port2 Model1A PARAMS:
+ R1=100
+ R2=0.034
+ C= {Cpar}
+ K1=0.000001
+ K2=0.006
+ K3= {Ind}
+ K4=0.001
+ K5=8.3E-08
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=292.049267
.ends PFL1005-36N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL1005-36N
* Inductance = 36nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-3GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt PFL1005-36N_imp port1 port2 PARAMS: Cpar=0.085pF Ind=0.036uH
X1 port1 port2 Model1D PARAMS:
+ R1=100
+ R2=0.034
+ C= {Cpar}
+ K1=0.000001
+ K2=0.006
+ K3= {Ind}
+ K4=0.001
+ K5=8.3E-08
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=292.049267
.ends PFL1005-36N_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL1005-60N
* Inductance = 60nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-3GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt PFL1005-60N_freq port1 port2 PARAMS: Cpar=0.08pF Ind=0.06uH
X1 port1 port2 Model1A PARAMS:
+ R1=100
+ R2=0.042
+ C= {Cpar}
+ K1=0.000002
+ K2=0.008
+ K3= {Ind}
+ K4=0.0008
+ K5=0.000006
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=374.355116
.ends PFL1005-60N_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL1005-60N
* Inductance = 60nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-3GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt PFL1005-60N_imp port1 port2 PARAMS: Cpar=0.07pF Ind=0.06uH
X1 port1 port2 Model1D PARAMS:
+ R1=100
+ R2=0.042
+ C= {Cpar}
+ K1=0.000002
+ K2=0.008
+ K3= {Ind}
+ K4=0.0008
+ K5=0.000006
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=374.355116
.ends PFL1005-60N_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL1005-101
* Inductance = 100nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-3GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt PFL1005-101_freq port1 port2 PARAMS: Cpar=0.07pF Ind=0.1uH
X1 port1 port2 Model1A PARAMS:
+ R1=40
+ R2=0.059
+ C= {Cpar}
+ K1=0.000001
+ K2=0.013
+ K3= {Ind}
+ K4=0.002
+ K5=4.8E-08
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=570.434879
.ends PFL1005-101_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL1005-101
* Inductance = 100nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-3GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt PFL1005-101_imp port1 port2 PARAMS: Cpar=0.064pF Ind=0.1uH
X1 port1 port2 Model1D PARAMS:
+ R1=40
+ R2=0.059
+ C= {Cpar}
+ K1=0.000001
+ K2=0.013
+ K3= {Ind}
+ K4=0.002
+ K5=4.8E-08
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=570.434879
.ends PFL1005-101_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL1005-181
* Inductance = 180nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-3GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt PFL1005-181_freq port1 port2 PARAMS: Cpar=0.1pF Ind=0.18uH
X1 port1 port2 Model1A PARAMS:
+ R1=175
+ R2=0.19
+ C= {Cpar}
+ K1=0.000001
+ K2=0.03
+ K3= {Ind}
+ K4=0.005
+ K5=0.0000052
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=972.280204
.ends PFL1005-181_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL1005-181
* Inductance = 180nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-3GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt PFL1005-181_imp port1 port2 PARAMS: Cpar=0.076pF Ind=0.18uH
X1 port1 port2 Model1D PARAMS:
+ R1=175
+ R2=0.19
+ C= {Cpar}
+ K1=0.000001
+ K2=0.03
+ K3= {Ind}
+ K4=0.005
+ K5=0.0000052
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=972.280204
.ends PFL1005-181_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL1005-271
* Inductance = 270nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-3GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt PFL1005-271_freq port1 port2 PARAMS: Cpar=0.11pF Ind=0.27uH
X1 port1 port2 Model1A PARAMS:
+ R1=120
+ R2=0.22
+ C= {Cpar}
+ K1=0.000016
+ K2=0.05
+ K3= {Ind}
+ K4=0.015
+ K5=0.0000001
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1476.46098
.ends PFL1005-271_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL1005-271
* Inductance = 270nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-3GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt PFL1005-271_imp port1 port2 PARAMS: Cpar=0.082pF Ind=0.27uH
X1 port1 port2 Model1D PARAMS:
+ R1=120
+ R2=0.22
+ C= {Cpar}
+ K1=0.000016
+ K2=0.05
+ K3= {Ind}
+ K4=0.015
+ K5=0.0000001
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1476.46098
.ends PFL1005-271_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL1005-391
* Inductance = 390nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-3GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt PFL1005-391_freq port1 port2 PARAMS: Cpar=0.08pF Ind=0.39uH
X1 port1 port2 Model1A PARAMS:
+ R1=150
+ R2=0.45
+ C= {Cpar}
+ K1=0.000001
+ K2=0.06
+ K3= {Ind}
+ K4=0.01
+ K5=7.5E-08
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1742.8363
.ends PFL1005-391_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL1005-391
* Inductance = 390nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-3GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt PFL1005-391_imp port1 port2 PARAMS: Cpar=0.071pF Ind=0.39uH
X1 port1 port2 Model1D PARAMS:
+ R1=150
+ R2=0.45
+ C= {Cpar}
+ K1=0.000001
+ K2=0.06
+ K3= {Ind}
+ K4=0.01
+ K5=7.5E-08
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1742.8363
.ends PFL1005-391_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL1005-561
* Inductance = 560nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-3GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt PFL1005-561_freq port1 port2 PARAMS: Cpar=0.085pF Ind=0.56uH
X1 port1 port2 Model1A PARAMS:
+ R1=80
+ R2=0.48
+ C= {Cpar}
+ K1=0.000001
+ K2=0.09
+ K3= {Ind}
+ K4=0.02
+ K5=0.00000009
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=2443.43364
.ends PFL1005-561_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL1005-561
* Inductance = 560nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-3GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt PFL1005-561_imp port1 port2 PARAMS: Cpar=0.072pF Ind=0.56uH
X1 port1 port2 Model1D PARAMS:
+ R1=80
+ R2=0.48
+ C= {Cpar}
+ K1=0.000001
+ K2=0.09
+ K3= {Ind}
+ K4=0.02
+ K5=0.00000009
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=2443.43364
.ends PFL1005-561_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL1005-721
* Inductance = 720nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-3GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt PFL1005-721_freq port1 port2 PARAMS: Cpar=0.095pF Ind=0.72uH
X1 port1 port2 Model1A PARAMS:
+ R1=85
+ R2=0.62
+ C= {Cpar}
+ K1=0.00007
+ K2=0.13
+ K3= {Ind}
+ K4=0.03
+ K5=9.8E-08
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=3211.89152
.ends PFL1005-721_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL1005-721
* Inductance = 720nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-3GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt PFL1005-721_imp port1 port2 PARAMS: Cpar=0.079pF Ind=0.72uH
X1 port1 port2 Model1D PARAMS:
+ R1=85
+ R2=0.62
+ C= {Cpar}
+ K1=0.00007
+ K2=0.13
+ K3= {Ind}
+ K4=0.03
+ K5=9.8E-08
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=3211.89152
.ends PFL1005-721_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL1005-102
* Inductance = 1uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-3GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt PFL1005-102_freq port1 port2 PARAMS: Cpar=0.065pF Ind=1uH
X1 port1 port2 Model1A PARAMS:
+ R1=90
+ R2=0.97
+ C= {Cpar}
+ K1=0.0008
+ K2=0.16
+ K3= {Ind}
+ K4=0.01
+ K5=1.3E-08
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=3905.15835
.ends PFL1005-102_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : PFL1005-102
* Inductance = 1uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-3GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt PFL1005-102_imp port1 port2 PARAMS: Cpar=0.064pF Ind=1uH
X1 port1 port2 Model1D PARAMS:
+ R1=90
+ R2=0.97
+ C= {Cpar}
+ K1=0.0008
+ K2=0.16
+ K3= {Ind}
+ K4=0.01
+ K5=1.3E-08
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=3905.15835
.ends PFL1005-102_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Impedance Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   Time Domain Inductor Impedance Model
*======================================================================
.subckt Model1D Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K3=1
+ PkZ=1
R2 Lin N001 {R2}
R3 N001 Lout {PkZ}
C1 N001 N002 {C}
R1 N002 Lout {R1}
L1 N001 Lout {K3}
.ends Model1D

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Power Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   DC Bias Current = 0 A
*   Frequency Dependent Inductor Model
*======================================================================
.subckt Model1A Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K1=1
+ K2=1
+ K3=1
+ K4=1
+ K5=1
R2 N001 Lin {R2}
R1 Lout N002 {R1}
C1 N002 N001 {C}
G_Rvar2 N001 Lout LAPLACE { V(N001, Lout) } {1/K2/(-S*S/4/PI^2)^0.25}
G_Rvar1 N001 N003 LAPLACE { V(N001, N003) } {1/K1/(-S*S/4/PI^2)^0.25}
G_Lvar N003 Lout  LAPLACE { V(N003, Lout) } {1/(S*1e-6*({K3*1e6}-({K4}*LOG({K5}*(sqrt(-S*S)/(2*pi))))))}
*This large resistance to ground has been added to prevent a floating node error
R3 N003 0 100Meg
.ends Model1A


.subckt Coilcraft_Inductor Lin Lout
R1 Lout Lin 100Meg
.ends Coilcraft_Inductor
